US06538152B1
To a solution of 4-(2-bromoethyl)-2,6-dichlorophenol (104 mg) in acetone (1.2 ml) were added potassium carbonate (133 mg) and methyl bromoacetate (73 μl), and the mixture was stirred for 3 hours at room temperature. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/ethyl acetate=12/1) gave methyl 2-[4-(2-bromoethyl)-2,6-dichlorophenoxy]acetate (82 mg).

reactant | 4-(2-bromoethyl)-2,6-dichlorophenol | 104 mg | BrCCC1=CC(=C(C(=C1)Cl)O)Cl | C8H7BrCl2O
reactant | potassium carbonate | 133 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 73 μl | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 1.2 ml | CC(=O)C | C3H6O
product | methyl 2-[4-(2-bromoethyl)-2,6-dichlorophenoxy]acetate | 82 mg | BrCCC1=CC(=C(OCC(=O)OC)C(=C1)Cl)Cl | C11H11BrCl2O3
